US06448205B1
Precursor β: 2,3-Dichloro-5-methylsulfinylpyridine
8.9 g (0.052 mol) of m-chloroperbenzoic acid were added, a little at a time, to a suspension of 10 g (0.052 mol) of 2,3-dichloro-5-methylthiopyridine in 60 ml of methylene chloride. After the mixture had been stirred for 2 hours at approximately 20° C., a further 0.9 g (5 mmol) of m-chloroperbenzoic acid was added. The mixture was subsequently refluxed for a further 2 hours. After cooling, the solids were separated off, whereupon the organic phase was washed once with sodium hydrogen sulfite, once with sodium hydrogen carbonate and once with water. After the mixture had been dried over sodium sulfate, it was concentrated. The crude product which was obtained as a red oil was purified by means of flash chromatography over silica gel (eluent: cyclohexane/ethyl acetate=1:1). Yield: 6.3 g (58%) as a brown oil; 1H-NMR (in d6 dimethyl sulfoxide): δ [ppm]=2.9 (s, CH3); 8.4 and 8.7 (2×d, pyr H).

reactant | m-chloroperbenzoic acid | 0.052 mol, 8.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,3-dichloro-5-methylthiopyridine | 0.052 mol, 10 g | ClC1=NC=C(C=C1Cl)SC | C6H5Cl2NS
reactant | m-chloroperbenzoic acid | 5 mmol, 0.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-methylsulfinylpyridine | ClC1=NC=C(C=C1Cl)S(=O)C | C6H5Cl2NOS
